US08859580B2
(3H-Benzoimidazol-5-yl)-[(2R,6S)-8-(1-hydroxy-1-methyl-ethyl)-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone
A solution of 1-[(2R,6S)-3-(3H-benzoimidazole-5-carbonyl)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl]-ethanone (0.10 g) in tetrahydrofuran (1 mL) is added to a solution of MeMgI (3 mol/L in Et2O, 0.25 mL) in tetrahydrofuran (1 mL) chilled in an ice bath (ca. 0° C.). Then, the cooling bath is removed and the solution is stirred at room temperature. After 5 h of stirring, more MeMgI (3 mol/L in Et2O, 0.25 mL) is added and the solution is stirred at 50° C. for 4 h. After cooling in an ice bath, aqueous NH4Cl solution is added and the resulting mixture is extracted with ethyl acetate. The combined organic extracts are dried (MgSO4) and the solvent is removed under reduced pressure. The residue is purified by HPLC on reversed phase (MeCN/H2O).

reactant | 1-[(2R,6S)-3-(3H-benzoimidazole-5-carbonyl)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl]-ethanone | 0.10 g | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)(C1(C)C)C)C=C(C=C3)C(C)=O | C25H27N3O2
reactant | MeMgI | 3 mol/L, 0.25 mL | C[Mg]I
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (3H-Benzoimidazol-5-yl)-[(2R,6S)-8-(1-hydroxy-1-methyl-ethyl)-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)(C1(C)C)C)C=C(C=C3)C(C)(C)O | C26H31N3O2
